US04661607
A mixture of 4-allyl-8-fluoro-3-hydroxy-9-oxo-9H-xanthene (1.4 g), m-chloroperbenzoic acid (1.2 g) and chloroform (250 ml) was stirred at room temperature for 5 hours and thereafter left to stand overnight. After addition of potassium carbonate (2 g) and water (50 ml), the mixture was extracted with chloroform. The chloroform layer was dried and the solvent was distilled off. The residue was recrystallized from ethanol to obtain 1.2 g of 7-fluoro-1,2-dihydro-2-hydroxymethyl-6-oxo-6H-furo[2,3-c]xanthene. m.p. 220°-221° C. This compound gave a mass spectrum having a molecular ion peak at m/e 286.

reactant | 4-allyl-8-fluoro-3-hydroxy-9-oxo-9H-xanthene | 1.4 g | C(C=C)C1=C(C=CC=2C(C3=C(C=CC=C3OC12)F)=O)O | C16H11FO3
reactant | m-chloroperbenzoic acid | 1.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | 7-fluoro-1,2-dihydro-2-hydroxymethyl-6-oxo-6H-furo[2,3-c]xanthene | 1.2 g | FC1=CC=CC=2OC=3C4=C(C=CC3C(C12)=O)OC(C4)CO | C16H11FO4
